US05344843
A mixture of (E)-alpha-[(aminocarbonyl)hydrazono]-4-[2-(2-naphthalenyloxy) ethoxy]benzeneacetic acid methyl ester (0.45 g) in warm methanol (3 mL) and tetrahydrofuran (10 mL) was treated with 1N sodium hydroxide (1.25 mL) and after 30 minutes the mixture was diluted with water and concentrated to remove the organic solvents. The residue was acidified with excess hydrochloric acid and extracted with a dichloromethane-tetrahydrofuran mixture. The organic layer was washed with water, dried (Na2SO4), filtered and evaporated to give crude product. Trituration from dichloromethane provided 0.242 g of pure (E)-alpha-[(aminocarbonyl)hydrazono]- 4-[2-(2-naphthalenyloxy)ethoxy]benzeneacetic acid as a colorless solid, mp 204° C. with decomposition.

reactant | (E)-alpha-[(aminocarbonyl)hydrazono]-4-[2-(2-naphthalenyloxy) ethoxy]benzeneacetic acid methyl ester | 0.45 g | COC(/C(/C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1)=N/NC(=O)N)=O | C22H21N3O5
reactant | sodium hydroxide | 1N, 1.25 mL | [OH-].[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | 3 mL | CO | CH4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (E)-alpha-[(aminocarbonyl)hydrazono]- 4-[2-(2-naphthalenyloxy)ethoxy]benzeneacetic acid | 0.242 g | NC(=O)N\N=C(\C(=O)O)/C1=CC=C(C=C1)OCCOC1=CC2=CC=CC=C2C=C1 | C21H19N3O5
